US09146466B2
1.8 g (20 mol %) of the compound (M-2) and 8.2 g (20 mol %) of the compound (M-16) were dissolved in 10 g of 2-butanone, and 0.37 g (5 mol % based on the total number of moles of the compounds) of AIBN (initiator) was added to the solution to prepare a monomer solution. A three-necked flask (100 mL) was charged with 5 g of 2-butanone, purged with nitrogen for 30 minutes, and heated to 80° C. with stirring. The monomer solution prepared as described above was added dropwise to the flask from a dropping funnel over 4 hours. The monomers were polymerized for 6 hours from the start of dropwise addition of the monomer solution. After completion of polymerization, the polymer solution was cooled with water to 30° C. or less. After transferring the polymer solution to a separating funnel (500 mL), 10 g of acetonitrile, 5 g of isopropanol, and 65 g of n-hexane were added to the polymer solution, and the mixture was stirred, and allowed to stand for 1 hour. The lower layer was then collected, and the solvent was replaced with propylene glycol monomethyl ether acetate to obtain a propylene glycol monomethyl ether acetate solution of a polymer (D-1) (yield: 77%). The polymer (D-1) had an Mw of 8100 and a dispersity (Mw/Mn) of 1.63. It was found by 13C-NMR analysis that the content of structural units derived from the compound (M-2) and the content of structural units derived from the compound (M-16) in the polymer (D-1) were 18.5 mol % and 81.5 mol %, respectively.

reactant | AIBN | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | water | O | H2O
reactant | acetonitrile | 10 g | C(C)#N | C2H3N
reactant | isopropanol | 5 g | C(C)(C)O | C3H8O
reactant | 2-butanone | 10 g | CC(CC)=O | C4H8O
reactant | 2-butanone | 5 g | CC(CC)=O | C4H8O
solvent | n-hexane | 65 g | CCCCCC | C6H14
product | propylene glycol monomethyl ether acetate | yield: 77% | C(C)(=O)OC(COC)C | C6H12O3
